US04629495
A mixture of 5-amino-4-cyano-1-(2,3,4-trichlorophenyl)pyrazole (12.47 g) and 4-chlorobutyryl chloride (12.3 g) in dry acetonitrile (200 ml) was stirred and gently warmed to effect dissolution. The solution was cooled to room temperature and stirred, after 48 hours a further quantity of 4-chlorobutyryl chloride (6.15 g) was added and stirring continued for 24 hours. The solution was evaporated under reduced pressure to give an oil which was chromatographed using dichloromethane-ethyl acetate (19:1) as eluent. Evaporation of the eluate containing the fastest moving component gave 5-(4-chlorobutyramido)-4-cyano-1-(2,3,4-trichlorophenyl)pyrazole (5 g), m.p. 173°-174° C., after crystallisation from toluene, in the form of pale yellow crystals.

reactant | 5-amino-4-cyano-1-(2,3,4-trichlorophenyl)pyrazole | 12.47 g | NC1=C(C=NN1C1=C(C(=C(C=C1)Cl)Cl)Cl)C#N | C10H5Cl3N4
reactant | 4-chlorobutyryl chloride | 12.3 g | ClCCCC(=O)Cl | C4H6Cl2O
reactant | 4-chlorobutyryl chloride | 6.15 g | ClCCCC(=O)Cl | C4H6Cl2O
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
product | 5-(4-chlorobutyramido)-4-cyano-1-(2,3,4-trichlorophenyl)pyrazole | 5 g | ClCCCC(=O)NC1=C(C=NN1C1=C(C(=C(C=C1)Cl)Cl)Cl)C#N | C14H10Cl4N4O
